US07671056B2
1) 4-(1-Benzylpiperidin-4-yl)-1-(2-methoxyphenyl)piperazine
Sodium triacetoxyborohydride (21.2 g) was added portionwise to a stirred solution of 1-(2-methoxyphenyl)piperazine (commercially available, 19.23 g) and 1-benzyl-4-piperidone (commercially available, 18.93 g) in CH2Cl2 (300 mL) at room temperature, followed by glacial acetic acid (6 mL). The resulting mixture was stirred at room temperature for 24 hours. The reaction was made basic by careful addition of saturated aqueous NaHCO3. The organic layer was separated, washed with brine, dried over anhydrous MgSO4, filtered and concentrated on a rotary evaporator to give the desired product (20.65 g) as an off-white solid which was used without further purification. The compound was characterized as the dihydrochloride salt, which was formed by dissolving the free base in ethanol and treating it with an excess of 1 N HCl/Et2O to give a white solid, which was collected by vacuum filtration, washed with Et2O and dried in vacuo; MP. 238-242° C.; MS (ES) m/z (relative intensity) 366 (M+H)+ (100).

reactant | Sodium triacetoxyborohydride | 21.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 4-(1-Benzylpiperidin-4-yl)-1-(2-methoxyphenyl)piperazine | 20.65 g | C(C1=CC=CC=C1)N1CCC(CC1)N1CCN(CC1)C1=C(C=CC=C1)OC | C23H31N3O
